US05324747
A mixture of 0.50 g (1.86 mmol) of N-[(3,5-Dihydroxy)phenyl]-N-(2-methoxy-2-oxoethyl)glycine methyl ester, 0.81 ml (3.9 mmol) of 1-bromodecane and 0.77 g (5.57 mmol) of potassium carbonate in 15 ml of acetone was stirred at reflux for 24 hours. An additional 0.8 ml of 1-bromodecane was added and reflux was continued for 48 hours. The reaction mixture was filtered through a Celite pad and the filtrate was concentrated at reduced pressure to an oil which was purified by HPLC using 15% ethyl acetate-hexane to give 0.54 g (52% yield) of N-(2-methoxy-2-oxoethyl)-N-[3,5-bis-(decyloxy)phenyl]glycine methyl ester as an oil. The nmr and mass spectra of this product were identical to those obtained using the procedure of Example 5.

reactant | N-[(3,5-Dihydroxy)phenyl]-N-(2-methoxy-2-oxoethyl)glycine methyl ester | 1.86 mmol, 0.50 g | COC(CN(CC(=O)OC)C1=CC(=CC(=C1)O)O)=O | C12H15NO6
reactant | 1-bromodecane | 3.9 mmol, 0.81 ml | BrCCCCCCCCCC | C10H21Br
reactant | potassium carbonate | 5.57 mmol, 0.77 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromodecane | 0.8 ml | BrCCCCCCCCCC | C10H21Br
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | N-(2-methoxy-2-oxoethyl)-N-[3,5-bis-(decyloxy)phenyl]glycine methyl ester | 0.54 g, 52% yield | COC(CN(C1=CC(=CC(=C1)OCCCCCCCCCC)OCCCCCCCCCC)CC(=O)OC)=O | C32H55NO6
